US07601716B2
7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (659 mg) was reacted with 2-(chloromethyl)-5-(trifluoromethyl)furan as in General Procedure 1 to give the title compound as a beige solid (87% yield). M.p. 189-191° C., LCMS: m/z=424.20 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 4.21 (s, 2H), 4.95 (bs, 1H), 5.05 (s, 2H), 6.39 (s, 1H), 6.75 (s, 1H), 7.50 (s, 1H), 7.96 (s, 1H).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 659 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2-(chloromethyl)-5-(trifluoromethyl)furan | ClCC=1OC(=CC1)C(F)(F)F | C6H4ClF3O
product | 7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 87% yield | IC1=CC2=C(NCC(N2CC=2OC(=CC2)C(F)(F)F)=O)N=C1 | C13H9F3IN3O2
